US05753652
a) N-Morpholinocarbonyl-(L)-valine
2.7 g (8.4 mmol) of N-morpholinocarbonyl-(L)-valine-benzyl ester are dissolved in 75 ml of ethyl acetate and the solution is hydrogenated for 3 h in the presence of 500 mg of 10% palladium on carbon at 1 atm hydrogen pressure and RT. The catalyst is filtered off and, after concentrating the solvent by evaporation, the title compound is obtained in the form of a colourless oil. 1H-NMR (300 MHz, CD3OD): 4.15 (m, 1H), 3.65 (m, 4H), 3.40 (m, 4H), 2.12 (m, 1H), 0.95 (2d, 6H).

reactant | N-morpholinocarbonyl-(L)-valine-benzyl ester | 8.4 mmol, 2.7 g | C(C1=CC=CC=C1)OC([C@@H](NC(=O)N1CCOCC1)C(C)C)=O | C17H24N2O4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
product | N-Morpholinocarbonyl-(L)-valine | O1CCN(CC1)C(=O)N[C@@H](C(C)C)C(=O)O | C10H18N2O4
